US07612075B2
4-(Benzyloxycarbonyl)-1-(2-hydroxyethyl)-piperazin-2-one, prepared as described in EXAMPLE 94, part A. (0.26 g, 0.94 mmol) in methylene chloride (6 mL) is treated with triphenyl phosphine (0.60 g, 2.3 mmol), imidazole (0.16 g, 2.3 mmol), and iodine (0.47 g, 1.9 mmol) for 0.5 h at 0° C. The reactin mixture is partitioned between water and methylene chloride; the organic layer is concentrated and the residue is chromatographed (15% EtOAc/methylene chloride) to give 4-(benzyloxycarbonyl)-1-(2-iodoethyl)-piperazin-2-one (0.24 g, 0.62 mmol). Pyrrolo[3,2-c]pyridine (0.073 g, g, 0.62 mmol) is dissolved in DMF (3 mL) and treated with 60% sodium hydride (0.03 g, 0.74 mmol) and all of the 4-(benzyloxycarbonyl)-1-(2-iodoethyl)-piperazin-2-one from the previous step; the reaction mixture is stirred at r.t. for 16 g. The reaction mixture is concentrated to dryness and the residue is partitioned between water and methylene chloride. The organic layer is concentrated and subjected to chromatography (2-5% MeOH/methylene chloride) to yield the title compound (0.028 g, 0.074 mmol) Ion Spray MS m/z: 379, [M+1]+.

reactant | 4-(Benzyloxycarbonyl)-1-(2-hydroxyethyl)-piperazin-2-one | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CCO)=O | C14H18N2O4
reactant | triphenyl phosphine | 2.3 mmol, 0.60 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 2.3 mmol, 0.16 g | N1C=NC=C1 | C3H4N2
reactant | iodine | 1.9 mmol, 0.47 g | II | I2
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | 4-(benzyloxycarbonyl)-1-(2-iodoethyl)-piperazin-2-one | 0.62 mmol, 0.24 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CCI)=O | C14H17IN2O3
